US06838464B2
4-[2-(Piperidino)ethylamino]nitrobenzene
Using an analogous procedure to that described in Method 23, but starting from 4-fluoronitrobenzene and 1-(2-aminoethyl)piperidine, the product was obtained. NMR: 1.3 (m, 2H), 1.5 (m, 4H), 2.3 (m, 4H), 2.4 (t, 2H), 3.2 (m, 2H), 6.6 (d, 2H), 7.1 (m, 1H), 8.0 (d, 2H); MS (MH+): 250.

reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1-(2-aminoethyl)piperidine | NCCN1CCCCC1 | C7H16N2
product | 4-[2-(Piperidino)ethylamino]nitrobenzene | N1(CCCCC1)CCNC1=CC=C(C=C1)[N+](=O)[O-] | C13H19N3O2
